US06949552B2
33 mg of 4-{1-(4-Fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]ethyl}-1-methylpiperidin-4-ol was dissolved in 4 ml of methanol, and 1 ml of 4M hydrogen chloride/ethyl acetate solution was added. The solution was concentrated under reduced pressure, and the resulting solid was washed with ethyl acetate to give 35 mg of 4-{(1-(4-fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]ethyl}-1-methylpiperidin-4-ol trihydrochloride.

reactant | 4-{1-(4-Fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]ethyl}-1-methylpiperidin-4-ol | 33 mg | FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)C1(CCN(CC1)C)O | C32H42FN3O
reactant | hydrogen chloride ethyl acetate | 4M, 1 ml | Cl.C(C)(=O)OCC
solvent | methanol | 4 ml | CO | CH4O
product | (1-(4-fluorophenyl)-2-[4-(naphthalen-1-yl-butyl)piperazin-1-yl]ethyl}-1-methylpiperidin-4-ol trihydrochloride | 35 mg | Cl.Cl.Cl.FC1=CC=C(C=C1)C(CN1CCN(CC1)CCCCC1=CC=CC2=CC=CC=C12)C1N(CCC(C1)O)C | InChI=1S/C32H42FN3O.3ClH/c1-34-18-16-29(37)23-32(34)31(27-12-14-28(33)15-13-27)24-36-21-19-35(20-22-36)17-5-4-8-26-10-6-9-25-7-2-3-11-30(25)26;;;/h2-3,6-7,9-15,29,31-32,37H,4-5,8,16-24H2,1H3;3*1H
